US09315490B2
148a) (1-(5-(1-Methyl-1H-pyrazol-4-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone
Potassium carbonate (254 mg, 1.846 mmol, 2.0 eq), Pd2(dba)3 (84 mg, 0.0923 mmol, 0.1 eq) and tri-tert-butylphosphonium tetrafluoroborate (13 mg, 0.046 mmol, 0.05 eq) were added to a solution of (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone (400 mg, 0.923 mmol, 1.0 eq) and (1-methyl-1H-pyrazol-4-yl)boronic acid (140 mg, 1.108 mmol, 1.2 eq) in THF/water (20 mL, 4:1) stirred under an argon atmosphere at 30° C. The reaction mixture was stirred at the same temperature for 2 h and the cooled to ambient temperature and diluted with ethyl acetate (10 mL). The mixture was filtered through a pad of celite, washed with water, dried over sodium sulfate and evaporated. The residue was purified by column chromatography [100-200 mesh, 2% methanol in dichloromethane]. White solid. Yield: 380 mg (95% of theory)

reactant | Potassium carbonate | 1.846 mmol, 254 mg, 2.0 eq | C([O-])([O-])=O.[K+].[K+]
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.046 mmol, 13 mg, 0.05 eq | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | (1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | 0.923 mmol, 400 mg, 1.0 eq | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C18H17BrN4O2S
reactant | (1-methyl-1H-pyrazol-4-yl)boronic acid | 1.108 mmol, 140 mg, 1.2 eq | CN1N=CC(=C1)B(O)O | C4H7BN2O2
solvent | THF water | 20 mL | C1CCOC1.O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.0923 mmol, 84 mg, 0.1 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (1-(5-(1-Methyl-1H-pyrazol-4-yl)pyrimidin-2-yl)-3-(methylthio)-1H-indol-6-yl)(morpholino)methanone | CN1N=CC(=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1CCOCC1)SC | C22H22N6O2S
